US04880808
To a stirred solution of 21.6 parts of 4-fluoro-N-(3-pyridinyl)benzamide in 235 parts of N,N-dimethylformamide were added portionwise 5.76 parts of a sodium hydride dispersion 50% at <25° C. under nitrogen atmosphere. After stirring for 1.5 hours at room temperature, the mixture was cooled to 0° C. and 27.8 parts of 1-bromo-4-chlorobutane were added. The reaction mixture was stirred for 3 hours at 60° C. After cooling, the whole was poured into 1000 parts of ice water and the product was extracted twice with methylbenzene. The combined extracts were washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (99:1 by volume) as eluent. The pure fractions were collected and the eluent was evaporated, yielding 7.4 parts (24.1%) of N-(4-chlorobutyl)-4-fluoro-N-(3-pyridinyl)benzamide as a residue (int. 67).

reactant | 4-fluoro-N-(3-pyridinyl)benzamide | FC1=CC=C(C(=O)NC=2C=NC=CC2)C=C1 | C12H9FN2O
reactant | sodium hydride | [H-].[Na+]
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-(4-chlorobutyl)-4-fluoro-N-(3-pyridinyl)benzamide | 24.1% | ClCCCCN(C(C1=CC=C(C=C1)F)=O)C=1C=NC=CC1 | C16H16ClFN2O
